US08871753B2
Step F. 6-Chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-ol
A solution of 6-chloro-12-methoxy-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene trifluoroacetate (157 mg, 0.34 mmol) in methylene chloride (2.5 mL) was cooled to −78° C. and 1 M boron tribromide in methylene chloride (1.68 mL, 1.68 mmol) was added slowly. The mixture was allowed to warm to room temperature and stir for 16 hours. The mixture was cooled to −78° C. and saturated sodium bicarbonate solution was added. The resulting suspension was filtered and the collected solid was washed with water and ethyl acetate to give the desired compound (113 mg, 100%). 1H NMR (300 MHz, DMSO-d6): δ 9.45 (s, 1H), 9.25 (s, 1H), 8.09 (s, 1H), 7.92 (s, 1H), 7.48 (s, 1H), 7.08 (m, 1H), 6.81 (m, 3H), 6.71 (d, 1H), 2.82 (s, 4H). LCMS for C18H16ClN4O (M+H)+: m/z=339.1.

reactant | 6-chloro-12-methoxy-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene trifluoroacetate | 0.34 mmol, 157 mg | FC(C(=O)O)(F)F.ClC=1C=NC=2NC=3C=CC=C(CCC4=C(C=CC(NC1N2)=C4)OC)C3
reactant | boron tribromide | 1 M | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 2.5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1.68 mmol, 1.68 mL | C(Cl)Cl | CH2Cl2
product | 6-Chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-ol | 113 mg, 100% | ClC=1C=NC=2NC=3C=CC=C(CCC4=C(C=CC(NC1N2)=C4)O)C3 | C18H15ClN4O
